US06906072B1
Reference Example 25 N-methyl-N-methoxy-4-methyl-3-phenylpentaneamide
Under a nitrogen atmosphere, a dimethylformamide solution of diethyl cyanophosphonate (1.97 g) and triethylamine (1.63 mL) was added to a tetrahydrofuran solution (24 mL) of 4-methyl-3-phenyl-pentanoic acid (1.96 g), N, O—dimethylhydroxyamine hydrochloride (1.18 g) and triethylamine (1.63 mL) at 0° C. After 19 hours, the organic layer was separated by adding diethyl ether and an aqueous saturated ammonium chloride thereto. The resulting organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. After filtering off the drying agent, the mixture was evaporated. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate system), to give the title compound (1.13 g, 47%).

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | diethyl cyanophosphonate | 1.97 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | 4-methyl-3-phenyl-pentanoic acid | 1.96 g | CC(C(CC(=O)O)C1=CC=CC=C1)C | C12H16O2
solvent | triethylamine | 1.63 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 1.63 mL | C(C)N(CC)CC | C6H15N
product | N-methyl-N-methoxy-4-methyl-3-phenylpentaneamide | 1.13 g, 47% | CN(C(CC(C(C)C)C1=CC=CC=C1)=O)OC | C14H21NO2
